US07094801B2
4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide
The title compound was prepared by condensing 4-acetyl-benzenesulfonamide (Ex-26A) and 5-(1H-indol-2-yl)-2,4-dimethoxy-benzaldehyde (Ex-61A) in a similar manner as described in Ex-22. Red solid, 70% yield, mp 185–187° C. 1H-NMR (DMSO-d6) δ 11.15 (br, s, 1H), 8.33 (s, 1H), 8.24 (d, J=8 Hz, 2H), 8.07 (d, J=15 Hz, 1H), 7.98 (d, J=8 Hz, 2H), 7.80 (d, J=15 Hz, 1H), 7.41–7.55 (m, 4H), 7.03–7.08 (m, 1H), 6.93–6.99 (m, 2H), 6.83 (s, 1H), 4.04 (s, 3H), 3.99 (s, 3H). MS m/z=463 ([M+H]+). HRMS (ES+) Calcd. for C25H22N2O5S: 463.1327. Found: 463.1316.

reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 5-(1H-indol-2-yl)-2,4-dimethoxy-benzaldehyde | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
product | 4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide | 70% yield | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C25H22N2O5S
